US09278950B2
Step 2. Benzyl [2-[({4-[(3S,5R)-3-amino-5-methylpiperidin-1-yl]pyridin-3-yl}amino)carbonyl]-7-(3-oxomorpholin-4-yl)quinolin-3-yl]carbamate
To a mixture of 3-{[(benzyloxy)carbonyl]amino}-7-(3-oxomorpholin-4-yl)quinoline-2-carboxylic acid (0.014 g, 0.033 mmol), tert-butyl [(3S,5R)-1-(3-aminopyridin-4-yl)-5-methylpiperidin-3-yl]carbamate (0.013 g, 0.043 mmol), HATU (0.034 g, 0.089 mmol) in DMF (0.30 mL), DIPEA (0.019 mL, 0.11 mmol) was added. The mixture was stirred at room temperature for 2 h. The mixture was diluted with 5 mL of EtOAc and 3 mL of 1 M NaOH. The layers were separated and the aqueous layer was extracted with EtOAc. The organic layers were combined and concentrated under reduced pressure. To the resulting residue, 1 mL of 4 M HCl in dioxane and 1 mL of MeOH were added. The mixture was stirred at room temperature for 1 h, then concentrated under reduced pressure. The resulting residue was purified by preparative HPLC (XBridge™ C18 column, eluting with a gradient of MeCN/water containing 0.1% NH4OH, at a flow rate of 60 mL/min.) to afford the sub-title compound (0.0063 g, 31%). LCMS calc. for C33H36N7O5 [M+H]+: m/z=610.3. found: 610.3.

reactant | 3-{[(benzyloxy)carbonyl]amino}-7-(3-oxomorpholin-4-yl)quinoline-2-carboxylic acid | 0.033 mmol, 0.014 g | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=CC=C2C1)N1C(COCC1)=O)C(=O)O | C22H19N3O6
reactant | tert-butyl [(3S,5R)-1-(3-aminopyridin-4-yl)-5-methylpiperidin-3-yl]carbamate | 0.043 mmol, 0.013 g | NC=1C=NC=CC1N1C[C@H](C[C@H](C1)C)NC(OC(C)(C)C)=O | C16H26N4O2
reactant | HATU | 0.089 mmol, 0.034 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.11 mmol, 0.019 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.30 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
solvent | NaOH | 1 M, 3 mL | [OH-].[Na+]
product | Benzyl [2-[({4-[(3S,5R)-3-amino-5-methylpiperidin-1-yl]pyridin-3-yl}amino)carbonyl]-7-(3-oxomorpholin-4-yl)quinolin-3-yl]carbamate | 0.0063 g, 31% | N[C@@H]1CN(C[C@@H](C1)C)C1=C(C=NC=C1)NC(=O)C1=NC2=CC(=CC=C2C=C1NC(OCC1=CC=CC=C1)=O)N1C(COCC1)=O | C33H35N7O5
